US08026261B2
E. Preparation of 3-Hydroxy-2-methyl-5-(2,2,2-trifluoro-1-hydroxy-ethyl)-1H-pyridin-4-one
A mixture of 3-hydroxy-2-methyl-1H-pyridin-4-one (6.1 g, 48.7 mmol), potassium carbonate (17 g, 123 mmol), and CF3CH(OH)OCF3 (25 mL, 0.25 mol) was heated to reflux under a blanket of nitrogen for 30 h. The progress of the reaction was monitored by HPLC Method 1 (Example 24), which indicated 63% (peak percent area) of conversion to the product. The reaction mixture was diluted with methanol (50 mL), then filtered to remove solid particulates. The filtrate was evaporated to dryness to afford an oil. The oily residue was taken up in ethyl acetate (150 mL) and washed with a saturated ammonium chloride solution (80 mL). The organic fraction was collected and set aside. The pH of the aqueous fraction was adjusted to 6 with a dilute hydrochloric acid solution, and the resulting aqueous solution was extracted with ethyl acetate (2×40 mL). All the organic fractions were combined, then washed with saturated ammonium chloride, dried over Na2SO4, filtered and then evaporated to dryness to give an oil. On trituration with ether, 3-hydroxy-2-methyl-5-(2,2,2-trifluoro-1-hydroxy-ethyl)-1H-pyridin-4-one separated as a solid product and was collected by suction filtration (3.5 g, 33%). NMR data is described in Part C above.

reactant | 3-hydroxy-2-methyl-1H-pyridin-4-one | 48.7 mmol, 6.1 g | OC1=C(NC=CC1=O)C | C6H7NO2
reactant | potassium carbonate | 123 mmol, 17 g | C([O-])([O-])=O.[K+].[K+]
reactant | CF3CH(OH)OCF3 | 0.25 mol, 25 mL | C(F)(F)(F)C(O)OC(F)(F)F | C3H2F6O2
solvent | methanol | 50 mL | CO | CH4O
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
product | 3-Hydroxy-2-methyl-5-(2,2,2-trifluoro-1-hydroxy-ethyl)-1H-pyridin-4-one | OC1=C(NC=C(C1=O)C(C(F)(F)F)O)C | C8H8F3NO3
